US08039472B2
To a solution of 2-Methyl-propane-2-sulfinic acid [4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-but-(E)-ylidene]-amide (4.51 g, 11.8 mmol) in THF (120 ml) at 0° C. is added vinylmagnesium bromide (11.8 ml of a 1 M solution in THF, 11.8 mmol) dropwise. After addition is complete, the mixture is stirred at 0° C. for 30 minutes then quenched with sat. aq. NH4Cl solution (20 ml). This mixture is allowed to warm to room temperature and diluted with water (50 ml) and EtOAc (50 ml). The organic phase is separated, dried (MgSO4) and concentrated in vacuo. Purification by chromatography (SiO2, EtOAc/iso-hexane) affords 2-Methyl-propane-2-sulfinic acid {4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-1-vinyl-butyl}-amide as a mixture of diastereomers as a gum; [M+H]+ 410.39

reactant | 2-Methyl-propane-2-sulfinic acid [4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-but-(E)-ylidene]-amide | 11.8 mmol, 4.51 g | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCC\C=N\S(=O)C(C)(C)C)C | C20H31NO4S
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 2-Methyl-propane-2-sulfinic acid {4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-1-vinyl-butyl}-amide | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCCC(C=C)NS(=O)C(C)(C)C)C | C22H35NO4S
